US07795255B2
The obtained 2-Azido-3-[5-(4-chloro-phenyl)-furan-2-yl]-acrylic acid ethyl ester (21 mg, 0.066 mmol) was dissolved in p-xylene and the mixture was heated to 140° C. for half an hour. The solvent was thereafter evaporated to give 15 mg (78% yield) of 2-(4-chloro-phenyl)-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester as a red solid.

reactant | 2-Azido-3-[5-(4-chloro-phenyl)-furan-2-yl]-acrylic acid ethyl ester | 0.066 mmol, 21 mg | C(C)OC(C(=CC=1OC(=CC1)C1=CC=C(C=C1)Cl)N=[N+]=[N-])=O | C15H12ClN3O3
solvent | p-xylene | CC=1C=CC(=CC1)C | C8H10
product | 2-(4-chloro-phenyl)-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester | 15 mg, 78% yield | C(C)OC(=O)C1=CC2=C(N1)C=C(O2)C2=CC=C(C=C2)Cl | C15H12ClNO3
